US05569768
L-Phenylalanine hydrochloride (1.75 mmoles, 380 mg), diisopropylethylamine (1.93 mmoles, 0.34 ml), 2-[5-[2-(2H-tetrazol-5-yl)phenyl]-1H-benzimidazol-1-yl]octanoic acid (1.24 mmoles, 0.50 g), hydroxybenzotriazole (1.36 mmoles 187 mg) and dicyclohexylcarbodiimide (1.36 mmoles, 280 mg) were reacted as in Example 37. The stereoisomers were separated by chromatography over silica gel eluted with 2% methanol in chloroform. The isomers were hydrolyzed as in Example 37 to yield N-[1-oxo-2-[5-[2-(2H-tetrazole-5-yl]phenyl]-1H-benzimidazol-1-yl]octyl]-L-phenylalanine.

reactant | L-Phenylalanine hydrochloride | 1.75 mmoles, 380 mg | Cl.N[C@@H](CC1=CC=CC=C1)C(=O)O
reactant | diisopropylethylamine | 1.93 mmoles, 0.34 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-[5-[2-(2H-tetrazol-5-yl)phenyl]-1H-benzimidazol-1-yl]octanoic acid | 1.24 mmoles, 0.50 g | N=1NN=NC1C1=C(C=CC=C1)C1=CC2=C(N(C=N2)C(C(=O)O)CCCCCC)C=C1 | C22H24N6O2
reactant | hydroxybenzotriazole | 1.36 mmoles, 187 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 1.36 mmoles, 280 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | N-[1-oxo-2-[5-[2-(2H-tetrazole-5-yl]phenyl]-1H-benzimidazol-1-yl]octyl]-L-phenylalanine | O=C(C(CCCCCC)N1C=NC2=C1C=CC(=C2)C2=C(C=CC=C2)C=2N=NNN2)N[C@@H](CC2=CC=CC=C2)C(=O)O | C31H33N7O3
